US04472418
Step B: Preparation of (2-Sulfamoyl-6-benzothiazolyl) N,N-dimethylsulfamate
To a stirred solution of 6-hydroxy-2-benzothiazolesulfonamide (2.3 g, 0.01 mole), triethylamine (1.4 ml) and 4-dimethylaminopyridine (200 mg) in dimethylformamide (20 ml) was added dimethylsulfamoyl chloride (1.1 ml). The reaction mixture was heated on a steam bath for 18 hours, poured into ice water and excess hydrochloric acid, extracted into ethyl acetate, washed with water and dried over magnesium sulfate. The ethyl acetate was evaporated and the (2-sulfamoyl-6-benzothiazolyl) N,N-dimethylsulfamate purified by chromatography on a 2 mm preparative silica gel TLC plate developed with chloroform/methanol 9:1 (v/v) m.p.=162°-164° C.

reactant | 6-hydroxy-2-benzothiazolesulfonamide | 0.01 mole, 2.3 g | OC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C7H6N2O3S2
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfamoyl chloride | 1.1 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (2-Sulfamoyl-6-benzothiazolyl) N,N-dimethylsulfamate | CN(S(OC1=CC2=C(N=C(S2)S(N)(=O)=O)C=C1)(=O)=O)C | C9H11N3O5S3
